US05039672
1. Cis/trans-6-fluoro-4-methoxycarbonyl-2-methyl-1-tetralone
To a solution of methyl 3-fluorophenylacetate (prepared from 3 fluorophenylacetic acid (Aldrich Chem. Co., Madison, Wis.) via esterification with methanol catalyzed by gaseous HCl) in anhydrous N,N-dimethylformamide (40 mL) warmed to 70° C. was added methyl methacrylate (5.8 mL) and potassium tertbutoxide (0.55 gm). After 15 minutes, aqueous 1N HCl (75 mL) was added, and the mixture extracted with diethyl ether. The organic extracts were washed with H2O, brine, dried (Na2SO4, filtered and evaporated. The residue was dissolved in concentrated H2SO4 (80 mL)/H2O (20 mL), and warmed to 70° C. for 3 hours, then poured onto crushed ice, and the mixture extracted with ethyl acetate. The extracts were washed with H2O, brine, dried (Na2SO4, filtered and evaporated. The oily residue was dissolved in methanol (250 mL), and the solution saturated with gaseous HCl. After 30 minutes, the mixture was purged with nitrogen, and concentrated under reduced pressure. The oily residue was partitioned between H2O (500 mL), and ethyl acetate, and the organic layer washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo to yield the title compound (10.9 gm, Rf (1:1 diethyl ether/SiO2)=0.4).

reactant | methyl 3-fluorophenylacetate | FC=1C=C(C=CC1)CC(=O)OC | C9H9FO2
reactant | methyl methacrylate | 5.8 mL | C(C(=C)C)(=O)OC | C5H8O2
reactant | potassium tertbutoxide | 0.55 gm | CC(C)([O-])C.[K+]
reactant | HCl | 1N, 75 mL | Cl | ClH
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | trans-6-fluoro-4-methoxycarbonyl-2-methyl-1-tetralone | 10.9 gm | FC=1C=C2[C@H](C[C@@H](C(C2=CC1)=O)C)C(=O)OC | C13H13FO3
